US07795257B2
The title A compound, 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester (3.6 g, 12.3 mmol) is dissolved in 25 mL of methanol and aqueous NaOH (0.70 g, 17.5 mmol in 4 mL of water) is added and the mixture is stirred at RT overnight. The methanol is removed under reduced pressure and the residue is diluted with 100 mL of water and extracted with ether. The aqueous layer is then acidified with 1N HCl and then extracted with ethyl acetate. The combined ethyl acetate layers are dried over anhydrous magnesium sulfate, filtered and reduced under vacuum to a crude orange oil. The crude oil is triturated with 100 mL of hexane/10-15 mL of ether to produce 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid as a solid: 1H NMR (400 MHz, CDCl3) δ1.0-1.1 (m, 2H), 1.4-1.8 (m, 5H), 1.8-1.9 (m, 2H), 2.1-2.25 (m, 2H), 3.74 (t, 1H, J=7.8), 7.51 (d, 2H, J=8.8), 8.19 (d, 2H, J=8.8); LC/MS 218 (—CO2, M−1), 279 (M+NH4+).

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester | 12.3 mmol, 3.6 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H21NO4
reactant | NaOH | 17.5 mmol, 4 mL, 0.70 g | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO4
